US08067445B2
Step 1: (2′-{[Ethyl-(2-phenylsulfanyl-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and (phenylthio)acetyl chloride.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | (phenylthio)acetyl chloride | C1(=CC=CC=C1)SCC(=O)Cl | C8H7ClOS
product | (2′-{[Ethyl-(2-phenylsulfanyl-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CSC1=CC=CC=C1)=O)CC)=O | C29H30F3NO4S
